US05534481
Preparation of 4-cyclopropylmethoxy-2-methyl-2H-indazole-3-sulfonamide (Intermediate No. 254)
2.8 g (70 mmol) of 60% sodium hydride was suspended in 50 ml of DMSO, and 6 g (83 mmol) of cyclopropane methanol was dropwise added thereto. The mixture was stirred at room temperature for one hour, and then 5.4 g (24 mmol) of 4-fluoro-2-methyl-2H-indazole-3-sulfonamide was added thereto. The mixture was stirred at 130° C. for 3 hours. After the reaction, the mixture was poured into ice water, acidified with citric acid and extracted with ethyl acetate. The organic layer was washed with water and then concentrated. Formed crystals were collected by filtration, washed with IPE and then dried to obtain 5.8 g (yield: 90%) of the desired product. Melting point: 139°-141° C.

reactant | sodium hydride | 70 mmol, 2.8 g | [H-].[Na+]
reactant | cyclopropane methanol | 83 mmol, 6 g | C1(CC1)CO | C4H8O
reactant | 4-fluoro-2-methyl-2H-indazole-3-sulfonamide | 24 mmol, 5.4 g | FC=1C2=C(N(N=C2C=CC1)C)S(=O)(=O)N | C8H8FN3O2S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 4-cyclopropylmethoxy-2-methyl-2H-indazole-3-sulfonamide | 5.8 g, yield: 90% | C1(CC1)COC=1C2=C(N(N=C2C=CC1)C)S(=O)(=O)N | C12H15N3O3S
